US08110570B2
To a solution of 1.5 gm (5.2 mmol) of methyl 4-benzyloxy-3-carboxybenzoate in 8 mL of DMF is added 0.85 gm (6.2 mmol) of HOBT and 1.2 gm (6.2 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (EDC). After 1 hr, 0.86 mL of 30% ammonium hydroxide is added, and the solution stirred for an additional 2 hr. The reaction mixture is concentrated to remove most of the DMF, and the residue is taken up in ethyl acetate. The ethyl acetate solution is washed with brine and dried over Na2SO4. Removal of solvent by rotoevaporation gives 1.37 gm (4.8 mmol) of methyl 4-benzyloxy-3-carbamoylbenzoate.

reactant | methyl 4-benzyloxy-3-carboxybenzoate | 5.2 mmol, 1.5 gm | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)OC)C=C1)C(=O)O | C16H14O5
reactant | HOBT | 6.2 mmol, 0.85 gm | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 6.2 mmol, 1.2 gm | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | ammonium hydroxide | 0.86 mL | [OH-].[NH4+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | methyl 4-benzyloxy-3-carbamoylbenzoate | 4.8 mmol, 1.37 gm | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)OC)C=C1)C(N)=O | C16H15NO4
